US07674795B2
The procedure used in Example 68 is followed. In a 100 ml round-bottomed flask under an argon atmosphere, heat, at 115° C. for 6 hours, a suspension of 1.7 g of (6-amino-2,3-difluorophenyl)amide of 9-oxo-9H-fluorene-4-carboxylic acid, obtained in the previous stage, in 35 ml of acetic acid. After cooling, bring to dryness under reduced pressure. Take the residue up in water and bring to pH=8 by adding a 10% saturated aqueous solution of sodium hydrogen carbonate, with water. The precipitate that formed is filtered off, washed with water, and rinsed with diisopropyl ether. In this way, we obtain 1.5 g of 4-(4,5-difluoro-1H-benzimidazol-2-yl)-9H-fluoren-9-one, in the form of an orange powder, which is used as it is in the following stage, with the following characteristics:

reactant | (6-amino-2,3-difluorophenyl)amide | 1.7 g | NC1=CC=C(C(=C1[NH-])F)F
reactant | 9-oxo-9H-fluorene-4-carboxylic acid | O=C1C2=CC=CC=C2C=2C(=CC=CC12)C(=O)O | C14H8O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-(4,5-difluoro-1H-benzimidazol-2-yl)-9H-fluoren-9-one | 1.5 g | FC1=C(C=CC=2NC(=NC21)C2=CC=CC=1C(C3=CC=CC=C3C21)=O)F | C20H10F2N2O
